US04360660
Preparation of Triphenylmethane Polymer (I-2)
59.3 g (0.2 mole) of N,N'-diethyl-N,N'-di(m-tolyl)ethylenediamine (Compound II-6) and 29.8 g (0.2 mole) of para-N,N-dimethylaminobenzaldehyde were placed in 300 g of polyphosphoric acid and heated at 140° C. for 4 hours while stirring. The system became viscous, but when poured into 5 liters of cold water and fully stirred, it was completely dissolved therein. On neutralizing the resulting solution by adding a concentrated aqueous solution of caustic soda, a polymer deposited as a precipitate. The precipitate so obtained was filtered off, fully washed with water, and then dried. Therefore, it was dissolved in tetrahydrofuran and reprecipitated in methanol. This treatment was repeated three times to obtain a whitish grey polymer in a yield of 80%.

reactant | N,N'-diethyl-N,N'-di(m-tolyl)ethylenediamine | 0.2 mole, 59.3 g | C(C)N(CCN(C=1C=C(C=CC1)C)CC)C=1C=C(C=CC1)C | C20H28N2
reactant | para-N,N-dimethylaminobenzaldehyde | 0.2 mole, 29.8 g | CN(C)C1=CC=C(C=O)C=C1 | C9H11NO
reactant | caustic soda | [OH-].[Na+]
solvent | water | 5 liters | O | H2O
product | Triphenylmethane | yield of 80% | C1(=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16
